US07399763B2
2-(4-Fluorobenzyl)-8-hydroxy-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-α]pyrazine-7-carboxylic acid
The title compound was prepared using a procedure similar to that described in Example 2, except that ethyl 2-benzyl-8-hydroxy-1-oxo-1,2,3,4-tetrahydropyrrolo-[1,2-α]pyrazine-7-carboxylate was substituted wit ethyl 2-(4-fluorobenzyl)-8-hydroxy-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-α]pyrazine-7-carboxylate.

reactant | ethyl 2-benzyl-8-hydroxy-1-oxo-1,2,3,4-tetrahydropyrrolo-[1,2-α]pyrazine-7-carboxylate | C(C1=CC=CC=C1)N1C(C=2N(CC1)C=C(C2O)C(=O)OCC)=O | C17H18N2O4
reactant | ethyl 2-(4-fluorobenzyl)-8-hydroxy-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-α]pyrazine-7-carboxylate | FC1=CC=C(CN2C(C=3N(CC2)C=C(C3O)C(=O)OCC)=O)C=C1 | C17H17FN2O4
product | 2-(4-Fluorobenzyl)-8-hydroxy-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-α]pyrazine-7-carboxylic acid | FC1=CC=C(CN2C(C=3N(CC2)C=C(C3O)C(=O)O)=O)C=C1 | C15H13FN2O4
